* C:\Users\ketak\OneDrive\Documents\LTspice\New folder\Differntial Amplifier using 2K.asc
XU1 N005 N001 N003 N007 N002 AD712
V1 N003 0 10
V2 0 N007 10
R§2k N001 N004 2k tol=1 pwr=.25
R3 N005 N006 2k tol=1 pwr=.25
R4 N002 N001 2k tol=1 pwr=.25
R2 N005 0 2k tol=1 pwr=.25
V§4v N004 0 SINE(0 5 100)
V4 N006 0 SINE(0 2 100) AC 2 wt
.tran .1
.lib ADI1.lib
.backanno
.end
